US05585376
3-Amino-benzoic acid tert-butyl ester
A mixture of 3-nitrophenylacetic acid (5 g), benzyl alcohol (2.9 ml) and 4,4-dimethylaminopyridine (300 mg) in dry dichloromethane (50 ml) was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (7.4 g). The resulting yellow mixture was stirred at 23° for 3 days whereupon the solvent was removed in vacuo. The residue was partitioned between water (100 ml) and ethyl actate (100 ml) and the organic phase washed with water (2×100 ml) and saturated brine (100 ml) then dried and evaporated. The residue was chromatographed with hexane-EA (4:1) as eluent then again with isohexane-DCM (1:1) as eluent to give the title compound (2.05 g) as a pale yellow oil.

reactant | 3-nitrophenylacetic acid | 5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | benzyl alcohol | 2.9 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 4,4-dimethylaminopyridine | 300 mg | CNC1(CC=NC=C1)NC | C7H13N3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 7.4 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Amino-benzoic acid tert-butyl ester | 2.05 g | C(C)(C)(C)OC(C1=CC(=CC=C1)N)=O | C11H15NO2
